US04710573
1-Phenylsulfonyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 2.5 g of 3-(1-methyl-4-piperidinyl)-1H-indazole and 50 ml of benzenesulfonyl chloride was heated on a steam bath for 1 hr. The solution was cooled to ambient temperature and then poured into ether. The precipitate was collected and triturated with ethyl acetate to yield a solid. The solid was combined with 1.5 g of solid from another experiment and recrystallized twice from isopropanol to yield 2.3 g (36%) of product, mp 222°-224° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 2.5 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | benzenesulfonyl chloride | 50 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ether | CCOCC | C4H10O
product | 1-Phenylsulfonyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 2.3 g, 36% | Cl.C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C19H21N3O2S.ClH/c1-21-13-11-15(12-14-21)19-17-9-5-6-10-18(17)22(20-19)25(23,24)16-7-3-2-4-8-16;/h2-10,15H,11-14H2,1H3;1H
